US06451805B1
5-Amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)-pyrazole
44.1 g (817 mmol) of sodium methoxide is added with stirring to a solution of 79.5 g (408 mmol) of benzylhydrazine dihydrochloride in 1.3 l of ethanol. After 15 min 67.4 g (408 mmol) of 2-cyanomethylcarbonyl-5-hydroxymethylfuran are added and the mixture is stirred under reflux for 3 hours. After cooling, 1 l of water is added, the ethanol part is evaporated in vacuo and the precipitated crystals are filtered off with suction. After washing, with water and then with ether, the precipitate is dried over P2O5, 91 g(83% of theory) of product having an m.p. of 163° C. are obtained.

reactant | sodium methoxide | 817 mmol, 44.1 g | C[O-].[Na+]
reactant | benzylhydrazine dihydrochloride | 408 mmol, 79.5 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | 2-cyanomethylcarbonyl-5-hydroxymethylfuran | 408 mmol, 67.4 g | C(#N)CC(=O)C=1OC(=CC1)CO | C8H7NO3
reactant | water | 1 l | O | H2O
solvent | ethanol | 1.3 l | C(C)O | C2H6O
product | 5-Amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)-pyrazole | NC1=CC(=NN1CC1=CC=CC=C1)C=1OC(=CC1)CO | C15H15N3O2
